US08859541B2
2-amino-N-[4-methyl-6-(2-phenylethynyl)pyridin-2-yl]propanamide
A mixture of tert-butyl-N-[1-[[4-methyl-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate D3b (2 mg, 5 μmol) and DCM:TFA (9:1, 400 μl) is stirred at RT for 4 hours. The mixture is diluted with DCM and extracted with a saturated aqueous solution of NaHCO3. The combined organic layers are dried over MgSO4 and concentrated in vacuo. Yield: 1.5 mg (quant.). HPLC-MS: M+H=280; tR=1.77 min (*Method—1).

reactant | tert-butyl-N-[1-[[4-methyl-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate | C(C)(C)(C)OC(NC(C(=O)NC1=NC(=CC(=C1)C)C#CC1=CC=CC=C1)C)=O | C22H25N3O3
reactant | DCM TFA | 400 μl | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-amino-N-[4-methyl-6-(2-phenylethynyl)pyridin-2-yl]propanamide | NC(C(=O)NC1=NC(=CC(=C1)C)C#CC1=CC=CC=C1)C | C17H17N3O
